US09290499B2
A 10 mL microwave tube was charged with 3-bromo-N-propyl-1H-pyrazolo[3,4-d]pyrimidin-6-amine (0.052 g, 0.2 mmol), K2CO3 (0.14 g, 1.0 mmol), DMF (2 mL), and cyclohexyl chloride (0.072 g, 0.6 mmol). The resulting mixture was heated at 200° C. for 30 minutes under microwave irradiation. After the reaction was cooled to room temperature, phenylboronic acid (0.37 g, 0.3 mmol), Pd(PPh3)4 (0.023 g, 0.02 mmol), and H2O (1 mL) were added sequentially. The mixture was stirred at room temperature for 3 min and then heated at 150° C. for 15 min. After cooled to room temperature, the mixture was partitioned in H2O and Et2O. The aqueous phase was extracted with ether (3×). The combined organic phase were dried (Na2SO4) and concentrated. The residue was purified by Isco to provide the 1-cyclohexyl-3-phenyl-N-propyl-1H-pyrazolo[3,4-d]pyrimidin-6-amine (UNC702A) (0.045 g, 67%) as a white solid. 1H NMR (400 MHz, CDCl3) δ 8.93 (s, 1H), 7.90 (d, J=8.0 Hz, 2H), 7.48 (t, J=6.0 Hz, 2H), 7.38 (t, J=6.0 Hz, 1H), 5.42 (s, 1H), 4.60 (tt, J=11.6, 4.1 Hz, 1H), 3.48 (dt, J=13.1, 6.8 Hz, 2H), 2.18-2.08 (m, 2H), 2.04-2.00 (m, 2H), 1.95-1.92 (m, 2H), 1.77-1.74 (m, 1H), 1.74-1.65 (m, 2H), 1.58-1.42 (m, 2H), 1.40-1.28 (m, 1H), 1.03 (t, J=7.4 Hz, 3H); 13C NMR (100 MHz, CDCl3) δ 160.73, 155.38, 153.50, 143.71, 133.27, 129.06, 128.60, 127.09, 106.91, 56.10, 43.68, 32.16, 25.91, 25.61, 22.98, 11.77; MS m/z 336.2 [M+1].

reactant | 3-bromo-N-propyl-1H-pyrazolo[3,4-d]pyrimidin-6-amine | 0.2 mmol, 0.052 g | BrC1=NNC2=NC(=NC=C21)NCCC | C8H10BrN5
reactant | K2CO3 | 1.0 mmol, 0.14 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyclohexyl chloride | 0.6 mmol, 0.072 g | C1(CCCCC1)Cl | C6H11Cl
reactant | phenylboronic acid | 0.3 mmol, 0.37 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | Pd(PPh3)4 | 0.02 mmol, 0.023 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 1 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-cyclohexyl-3-phenyl-N-propyl-1H-pyrazolo[3,4-d]pyrimidin-6-amine | 0.045 g, 67% | C1(CCCCC1)N1N=C(C=2C1=NC(=NC2)NCCC)C2=CC=CC=C2 | C20H25N5
